US05387710
Sodium nitrite (609 mg) aqueous solution (6 ml) was added dropwise to a stirred suspension of N7 -benzyl-6,7-dihydro-5H-benzocycloheptene-2,7-diamine (2.22 g) in 6N sulfuric acid (22 ml) under ice cooling over 15 minutes and the resulting solution was stirred at the same temperature for 30 minutes. The solution was added dropwise to a stirred solution of sulfuric acid (3 ml) in water (15 ml) at 75° C. over 15 minutes. The resulting mixture was stirred at the same temperature for 30 minutes, cooled with ice-water bath, basified with 28% ammonia solution (15 ml), and extracted six times with dichloromethane. The combined extracts were evaporated in vacuo and chromatographed over silica gel using dichloromethane and methanol to afford 7-benzylamino-6,7-dihydro-5H-benzocyclohepten-2-ol (1.72 g) as a pale brown oil.

reactant | Sodium nitrite | 609 mg | N(=O)[O-].[Na+]
reactant | N7 -benzyl-6,7-dihydro-5H-benzocycloheptene-2,7-diamine | 2.22 g | C(C1=CC=CC=C1)NC1CCC2=C(C=C1)C=C(C=C2)N | C18H20N2
reactant | ammonia | 15 ml | N | H3N
solvent | sulfuric acid | 6N, 22 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 15 ml | O | H2O
solvent | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
product | 7-benzylamino-6,7-dihydro-5H-benzocyclohepten-2-ol | 1.72 g | C(C1=CC=CC=C1)NC1CCC2=C(C=C1)C=C(C=C2)O | C18H19NO
